US04375475
Step F. Preparation of 3,5-Dichloro-4'-fluoro-[1,1'-biphenyl]-2-carboxaldehyde
A vigorously stirred suspension of 2-(3,5-dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-3,4,4-trimethyl-2-oxazolium iodide (5.9 g, 12.3 mmol) in ethanol (50 ml) was treated portionwise with sodium borohydride (550 mg, 18 mmol). After stirring for two hours at ambient temperature the clear solution was diluted with 3 N hydrochloric acid (100 ml) and stirred on a steam bath for two hours. The reaction mixture was then cooled, diluted with H2O (200 ml) and extracted with ether (300 ml). The ether extract was washed with H2O (2×200 ml) and brine, then dried (MgSO4), filtered and evaporated in vacuo to provide 2.72 g (82%) of the title compound, mp 66°-68° C. Crystallization from petroleum ether provided an analytical sample of the title compound, mp 73°-74° C.

reactant | 2-(3,5-dichloro-4'-fluoro-2-[1,1'-biphenyl]yl)-3,4,4-trimethyl-2-oxazolium iodide | 12.3 mmol, 5.9 g | [I-].ClC=1C(=C(C=C(C1)Cl)C1=CC=C(C=C1)F)[CH2+]1OCC(N1C)(C)C
reactant | sodium borohydride | 18 mmol, 550 mg | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 3 N, 100 ml | Cl | ClH
solvent | H2O | 200 ml | O | H2O
product | 3,5-Dichloro-4'-fluoro-[1,1'-biphenyl]-2-carboxaldehyde | 2.72 g, 82% | ClC1=C(C(=CC(=C1)Cl)C1=CC=C(C=C1)F)C=O | C13H7Cl2FO
